US07439237B2
(9h) (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoic Acid
1.8 g methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoate dissolved in 50 ml THF was combined with a solution of 115.2 mg (4.8 mmol) lithium hydroxide in 50 ml of water and stirred overnight at RT. The reaction mixture was evaporated down under reduced pressure, combined with 150 ml of water and washed with 150 ml EtOAc. The aqueous phase was acidified with conc. hydrochloric acid and extracted with 150 ml EtOAc. The organic phase was separated off, dried and evaporated down under reduced pressure.

reactant | methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoate | 1.8 g | ClC=1C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C(C1O)C(F)(F)F | C27H29ClF3N3O5
reactant | lithium hydroxide | 4.8 mmol, 115.2 mg | [OH-].[Li+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoic Acid | ClC=1C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C(C1O)C(F)(F)F | C26H27ClF3N3O5
